US04394515
8-Amino-3-cyanodibenzo[b,f]thiepin
5.6 G. 3-cyano-8-nitrodibenzo[b,f]thiepin is dissolved in 600 cc. tetrahydrofuran and 27 g. stannous chloride dihydrate in 40 cc. water is added, followed by 100 cc. concentrated hydrochloric acid. The mixture is stirred for 24 hours, poured onto ice, and shaken with 300 cc. 20% sodium hydroxide. The organic layer is separated and the aqueous basic layer shaken once more with tetrahydrofuran. The combined organic extracts are dried and the solvent evaporated to dryness and the residue chromatographed on silica gel and eluted with 20% ethyl acetate in benzene to yield 2.45 g. of the pure amine, m.p. 188°-190° C.

reactant | 3-cyano-8-nitrodibenzo[b,f]thiepin | C(#N)C=1C=CC2=C(SC3=C(C=C2)C=C(C=C3)[N+](=O)[O-])C1 | C15H8N2O2S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 8-Amino-3-cyanodibenzo[b,f]thiepin | NC=1C=CC2=C(C=CC3=C(S2)C=C(C=C3)C#N)C1 | C15H10N2S
